US04537893
About 1.9 millimoles of trans-(±)-2-bromo-5-n-propyl-4,4a,5,6,7,8,8a,9-octahydrothiazolo[4,5-g]quinoline were dissolved in 10 ml. of 20% aqueous sulfuric acid. The solution was heated at about 100° C. for about five hours and then was cooled. The cooled solution was allowed to remain at ambient temperature for an additional 48 hours. The reaction mixture was then made basic with concentrated aqueous ammonium hydroxide. The aqueous mixture was extracted several times with equal volumes of chloroform. The chloroform extracts were combined, and the combined extracts washed with saturated aqueous sodium chloride and then dried. Evaporation of the chloroform in vacuo yielded trans-(±)-5-n-propyl-4,4a,5,6,7,8,8a,9-octahydrothiazolo[4,5-g]quinolin-2(1H)-one which was one spot material by TLC (9:1 CHCl3 /MeOH+trace NH4OH); Rf =0.37. The compound showed a strong band at 1650 cm-1 in the infrared indicating a carbonyl.

reactant | trans-(±)-2-bromo-5-n-propyl-4,4a,5,6,7,8,8a,9-octahydrothiazolo[4,5-g]quinoline | 1.9 millimoles | BrC=1SC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1 | C13H19BrN2S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
product | trans-(±)-5-n-propyl-4,4a,5,6,7,8,8a,9-octahydrothiazolo[4,5-g]quinolin-2(1H)-one | C(CC)N1CCC[C@H]2CC3=C(C[C@H]12)SC(N3)=O | C13H20N2OS
